data/mechanisms/records/IMS8-EQ8.89.json
{"mechanism_id": "IMS8-EQ8.89", "species": [{"species_id": "dimethyloctane_molecular_ion", "mapped_smiles": "[CH3:5][CH:3]([CH3:6])[CH:1]([CH3:4])[CH:2]([1H:20])[CH2:7][CH2:8][CH2:9][CH3:10]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "heptan_2_yl_cation", "mapped_smiles": "[CH3:4][CH+:1][CH:2]([1H:20])[CH2:7][CH2:8][CH2:9][CH3:10]", "role": "intermediate", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "isopropyl_radical", "mapped_smiles": "[CH3:5][CH:3][CH3:6]", "role": "intermediate", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "heptene_radical_cation", "mapped_smiles": "[CH3:4][CH+:1][CH:2][CH2:7][CH2:8][CH2:9][CH3:10]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "propane_neutral", "mapped_smiles": "[CH3:5][CH:3]([1H:20])[CH3:6]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["dimethyloctane_molecular_ion"]}, {"state_id": "state_ion_molecule_complex", "species_ids": ["heptan_2_yl_cation", "isopropyl_radical"]}, {"state_id": "state_products", "species_ids": ["heptene_radical_cation", "propane_neutral"]}], "steps": [{"step_id": "step_sigma_dissociation", "from_state": "state_precursor", "to_state": "state_ion_molecule_complex", "step_class": "sigma_dissociation", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 3]}, "target": {"type": "external", "atom_maps": []}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 3]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_hydrogen_transfer", "from_state": "state_ion_molecule_complex", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 20]}, "target": {"type": "bond", "atom_maps": [3, 20]}, "electron_count": 1}, {"source": {"type": "radical_orbital", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [3, 20]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 20]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_sigma", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_sigma_dissociation", "support_type": "textbook_proposed", "locator": {"page": 203, "equation": "8.89", "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.8, "curator_note": "Equation 8.89, FIRST arrow (structure 1 -> structure 2). Set-up sentence, running across pages 202/203: 'Hydrogen-transfer reactions can even occur in OE+. ions formed by sigma-ionization, which formally do not contain coordinatively unsaturated receptors. For example (Figure 8.8), the terminal isopropyl groups of 2-methylnonane and 2,3-dimethyl-octane are clearly indicated by the important (M - C3H8)+. ions ... This hydrogen transfer between two formally saturated parts is made possible in an ion-molecule complex with an elongated central C-C bond (Wendelboe et al. 1981) that removes coordinational saturation from the receptor part (Equation 8.89).' ARC COUNT (convention D): Book draws 0 arc(s) on this arrow (a plain reaction arrow; the '+.' is printed as a superscript on the central carbon, straddling the ionized C1-C3 bond); moves <1,2> are BOTH curator-supplied for electron balance (not drawn on the page): move <1> routes one electron of the ionized central C1-C3 sigma bond to EXTERNAL (the EI ionization hole), move <2> routes the other onto C3, giving .CH(CH3)2 and leaving C1 as the carbenium. LOCALIZATION CAVEAT (convention B): a saturated-alkane sigma radical cation has no valence-correct localized Lewis/RDKit structure - its odd electron occupies the one-electron C-C bond and sits on no single atom - so the precursor mapped_smiles is the neutral C10H22 skeleton while charge=1/radical_electrons=1 are carried in the species fields, exactly the convention already used in IMS4-EQ4.7 and IMS8-EQ8.38a. INTERMEDIATE DISCLOSED (convention G): the book draws structure 2 as an ION-MOLECULE COMPLEX, C1(+) ... .C3H(CH3)2 with a DOTTED (elongated) central C-C bond; a non-covalent complex is not representable as one mapped SMILES, so it is encoded as the two-species state {heptan-2-yl cation, isopropyl radical} that remain associated (held by ion-dipole forces) rather than separating - the same treatment as IMS8-EQ8.7c."}, {"evidence_id": "evidence_step_htransfer", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_hydrogen_transfer", "support_type": "textbook_proposed", "locator": {"page": 203, "equation": "8.89", "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.8, "curator_note": "Equation 8.89, SECOND arrow (structure 2 -> structure 3): inside the ion-molecule complex the isopropyl radical abstracts a hydrogen from the carbon adjacent to the carbenium centre ('RHC--H'), expelling propane, HCH(CH3)2, and leaving the alkene radical cation, i.e. the (M - C3H8)+. ion the text attributes to a terminal isopropyl group. ARC COUNT (convention D, RE-CHECKED 2026-07-28 at native scan resolution): Book draws 2 arc(s), two DISJOINT single-barbed fishhooks (a clear blank gap separates them). Arc 1 = the large loop whose tail sits on the breaking C2-H20 bond, sweeping up and over the H with its barb pointing down toward the forming-bond region. Arc 2 = a separate lower stroke that starts just below arc 1's barb and curves down to the odd electron drawn on C3 of .CH(CH3)2; moves <1> and <2> are BOTH drawn (arc 1 and arc 2 respectively); only move <3> is an implicit hook required for electron balance (not drawn on the page). Move <2> pairs the isopropyl odd electron into the forming C3-H20 bond. CORRECTION: an earlier version of this note claimed only 1 arc was drawn and called move <2> implicit; native-resolution inspection shows two separate fishhooks. It also said the breaking C2-H20 bond is 'drawn part-dashed as RHC---H' - it is NOT: that bond is a continuous SOLID line (the ragged top edge is antialiasing), and the only genuinely dashed bond in the structure is the central C...CH(CH3)2 bond. move <3> leaves the second electron of the broken C2-H20 bond on C2 as the odd electron of the product radical cation. LOCALIZATION (convention C): the book draws the product as a full C1=C2 double bond carrying a '+.' superscript on the RHC carbon. That drawing has no valence-consistent SMILES - with both alkene carbons tetravalent it IS the neutral alkene - because the ion is a pi-ionized alkene whose C1-C2 bond holds only three electrons (formal order 1.5). ONE localized resonance form is encoded, chosen minimal-motion: the charge stays on C1 (the carbenium carbon of the complex) and the odd electron sits on C2, precisely where move <3> leaves the leftover sigma electron; the partner form (charge on C2, radical on C1) is the same ion and is not separately encoded. Consequently the encoded C1-C2 bond order does not change in this step (1 -> 1), which is why no arrow feeds it."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 142.1716, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_M_minus_C3H8", "species_id": "heptene_radical_cation", "step_id": "step_hydrogen_transfer", "observed_mz": 98.109, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
